US06716837B1
6-Bromo-1-(tetrahydropyran-4-yl)-indole (compound 15)
4-Bromo-2-[(tetrahydropyran4-yl)amino]-phenylacetaldehyde, dimethyl acetal (522 mg, 1.516 mmol) was dissolved in 20 ml of 1M HCl in methanol. The solution was refluxed for 2 hrs and the solvent evaporated to give the title compound (407 mg, 96%) as an off-white solid.

reactant | 4-Bromo-2-[(tetrahydropyran4-yl)amino]-phenylacetaldehyde | BrC1=CC(=C(C=C1)CC=O)NC1CCOCC1 | C13H16BrNO2
solvent | HCl | 1M, 20 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 6-Bromo-1-(tetrahydropyran-4-yl)-indole | 407 mg, 96% | BrC1=CC=C2C=CN(C2=C1)C1CCOCC1 | C13H14BrNO
